US07094801B2
4-[3E-(4-Methoxy-2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 4-methoxy-2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-5-thiophen-2-yl-benzaldehyde (Ex-68B) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 137–138° C., 82% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.20–8.23 (m, 3H), 8.09 (d, 2H, J=8.3 Hz), 8.01 (m, 2H), 7.66 (d, 1H, J=3.6 Hz), 7.52 (d, 1H, J=5.1 Hz), 7.13 (dd, 1H, J=5.1, 3.6 Hz), 6.88 (s, 1H), 4.37 (t, 2H, J=3.6 Hz), 4.01 (s, 3H), 3.89 (t, 2H, J=3.6 Hz), 3.64–3.67 (m, 2H), 3.53–3.56 (m, 2H), 3.47–3.50 (m, 2H), 3.36–3.95 (m, 2H), 3.19 (s, 3H). MS (ESI) m/z=527 ([M+H]+, 100%). Anal. Calcd. for C28H30O8S: C, 63.86; H, 5.74; S, 6.09. Found: C, 64.08; H, 5.77; S, 6.09.

reactant | 4-methoxy-2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-5-thiophen-2-yl-benzaldehyde | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCCOCCOCCOC | C19H24O6S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(4-Methoxy-2-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethoxy}-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 82% yield | COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OCCOCCOCCOC | C28H30O8S
